* Z:\mnt\design.r\spice\examples\3374A.asc
V1 IN 0 5
R1 IN N010 100K
R2 N013 0 402K
L1 N003 OUT1 2.2µ Rser=50m
R3 OUT1 N001 1.02Meg
R4 N001 0 324K
C1 OUT1 0 22µ Rser=20m
Rload1 OUT1 0 4
L2 N004 OUT2 2.2µ Rser=50m
R5 OUT2 N002 1Meg
R6 N002 0 365K
C2 OUT2 0 22µ Rser=20m
Rload2 OUT2 0 4
L3 N005 OUT3 2.2µ Rser=50m
R7 OUT3 N006 1.02Meg
R8 N006 0 475K
C3 OUT3 0 22µ Rser=20m
Rload3 OUT3 0 3
L4 N007 OUT4 2.2µ Rser=50m
R9 OUT4 N008 1Meg
R10 N008 0 665K
C4 OUT4 0 22µ Rser=20m
Rload4 OUT4 0 3
L5 N009 OUT5 2.2µ Rser=50m
R11 OUT5 N011 255K
R12 N011 0 1.02Meg
C5 OUT5 0 22µ Rser=20m
Rload5 OUT5 0 2
L6 N012 OUT6 2.2µ Rser=50m
R13 OUT6 N014 232K
R14 N014 0 464K
C6 OUT6 0 22µ Rser=20m
Rload6 OUT6 0 2
L7 N016 OUT7 2.2µ Rser=50m
R15 OUT7 N018 715K
R16 N018 0 806K
C7 OUT7 0 22µ Rser=20m
Rload7 OUT7 0 2
L8 N015 OUT8 2.2µ Rser=50m
R17 OUT8 N017 806K
R18 N017 0 649K
C8 OUT8 0 22µ Rser=20m
Rload8 OUT8 0 2.5
XU1 N001 IN N003 N004 IN N002 N006 IN N005 N007 IN N008 IN IN N010 0 N013 IN IN N011 IN N009 N012 IN N014 N018 IN N016 N015 IN N017 IN IN 0 IN MP_01 IN IN 0 LTC3374A
.tran 1.1m startup
.lib LTC3374A.sub
.backanno
.end
